US08791255B2
The product is prepared according to the procedure described in example 5, using 204 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 211 mg of 3-ethynyl-4-fluoroaniline, and 195 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 0.126 ml of pyridine and 3 ml of N,N-dimethylformamide. 200 mg of N-(3-ethynyl-4-fluorophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 204 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3-ethynyl-4-fluoroaniline | 211 mg | C(#C)C=1C=C(N)C=CC1F | C8H6FN
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 195 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 0.126 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(3-ethynyl-4-fluorophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 200 mg | C(#C)C=1C=C(C=CC1F)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C18H17FN4O3
